US05700819
To a mixture of dioxane (5 ml), methanol (2.5 ml) and water (2.5 ml) was added 5-(4,5,7-trifluorobenzothiazol-2-ylthio)pentanoic acid ethyl ester (590 mg, 2 mmol) and sodium hydroxide (100 mg, 2.5 mmol) and the resultant mixture was stirred for 15 hours at room temperature. The reaction mixture was diluted with water and washed with ether. The aqueous phase was then acidified with 7% hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with an aqueous saturated saline solution, dried and then evaporated. The resulting oily residue was purified on a silica gel column and crystallized from hexane-isopropyl ether to give 5-(4,5,7-trifluorobenzothiazol-2-ylthio)pentanoic acid (170 mg, 31%) as a colorless powder.

reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | methanol | 2.5 ml | CO | CH4O
reactant | 5-(4,5,7-trifluorobenzothiazol-2-ylthio)pentanoic acid ethyl ester | 2 mmol, 590 mg | C(C)OC(CCCCSC=1SC2=C(N1)C(=C(C=C2F)F)F)=O | C14H14F3NO2S2
reactant | sodium hydroxide | 2.5 mmol, 100 mg | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 2.5 ml | O | H2O
product | 5-(4,5,7-trifluorobenzothiazol-2-ylthio)pentanoic acid | 170 mg, 31% | FC1=C(C=C(C2=C1N=C(S2)SCCCCC(=O)O)F)F | C12H10F3NO2S2
